US09120804B2
1-(6-Bromo-1H-indol-3-yl)-2,2,2-trifluoro-ethanone is treated with methylmagnesiumchloride at −78° C. to rt to obtain 2-(6-bromo-1H-indol-3-yl)-1,1,1-trifluoro-propan-2-ol, which is coupled with 8-(1-methyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamine following general procedure 2.

reactant | 1-(6-Bromo-1H-indol-3-yl)-2,2,2-trifluoro-ethanone | BrC1=CC=C2C(=CNC2=C1)C(C(F)(F)F)=O | C10H5BrF3NO
reactant | methylmagnesiumchloride | C[Mg]Cl
product | 2-(6-bromo-1H-indol-3-yl)-1,1,1-trifluoro-propan-2-ol | BrC1=CC=C2C(=CNC2=C1)C(C(F)(F)F)(C)O | C11H9BrF3NO
